US06703422B2
A solution of ethyl 6-bromo-2-methyl-2-phenyl-hexanoate (18.5 g, 59.0 mmol), thiourea (7.0 g, 91.0 mmol), and potassium hydroxide (6.1 g, 92.0 mmol) in ethanol (200 mL) was heated to 40-50° C. overnight. The mixture was cooled to rt, poured into an ice/water/HCl mixture (150 g/150 mL/150 mL), and stirred for 20 min. The mixture was extracted with dichloromethane (4′ 60 mL) and the combined organic layers were washed with sat. NaHCO3 solution (100 mL) and sat. NH4Cl solution (100 mL). The dichloromethane solution was dried over MgSO4 and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (hexanes/ethyl acetate=10/1) to give 6-(5-ethoxycarbonyl-5-phenylhexylsulfanyl)-2-methyl-2-phenyl-hexanoic acid ethyl ester (12.5 g, 85%) as a yellow oil. 1H NMR (300 MHz, CDCl3/TMS): d (ppm): 7.42-7.15 (m, 10H), 4.20-4.05 (q, 4H, J=7.1 Hz), 2.44 (t, J=7.6 Hz, 4H), 2.15-1.95 (m, 2H), 1.95-1.75 (m, 2H), 1.62-1.40 (m, 10H), 1.35-1.10 (m, 4H), 1.18 (t, 6H, J=7.1 Hz). 13C NMR (75 MHz, CDCl3/TMS): d (ppm): 176.06, 143.89, 128.25, 126.52, 125.84, 60.65, 50.04, 38.77, 31.80, 30.11, 24.06, 22.61, 14.01. HRMS (LSIMS, nba): Calcd. for C30H43O4S1 (MH+): 499.2882, found 499.2868.

reactant | ethyl 6-bromo-2-methyl-2-phenyl-hexanoate | 59.0 mmol, 18.5 g | BrCCCCC(C(=O)OCC)(C1=CC=CC=C1)C | C15H21BrO2
reactant | thiourea | 91.0 mmol, 7.0 g | NC(=S)N | CH4N2S
reactant | potassium hydroxide | 92.0 mmol, 6.1 g | [OH-].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 6-(5-ethoxycarbonyl-5-phenylhexylsulfanyl)-2-methyl-2-phenyl-hexanoic acid ethyl ester | 12.5 g, 85% | C(C)OC(C(CCCCSCCCCC(C)(C1=CC=CC=C1)C(=O)OCC)(C1=CC=CC=C1)C)=O | C30H42O4S
